US04218464
12.0 g. (0.058 mol.) of dichloro-3-methylbenzoic acid and 75 ml. of ethyl orthoformate in 100 ml. of ethanol was saturated with hydrogen chloride and refluxed to give ethyl 3,4-dichloro-2-methylbenzoate.

reactant | dichloro-3-methylbenzoic acid | 0.058 mol | ClC1=C(C(=C(C(=O)O)C=C1)Cl)C | C8H6Cl2O2
reactant | ethyl orthoformate | C(OCC)([O-])[O-]
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | ethyl 3,4-dichloro-2-methylbenzoate | ClC=1C(=C(C(=O)OCC)C=CC1Cl)C | C10H10Cl2O2
